US09302996B2
60% Sodium hydride (2.62 g) was added to a solution of 2-bromo-5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridine (13.65 g) dissolved in N,N-dimethylformamide (150 mL) under nitrogen atmosphere and under ice-cooling, and the mixture was stirred for 30 minutes. To the mixture was added 2-(trimethylsilyl)ethoxymethyl chloride (12.4 mL) under ice-cooling, and the mixture was stirred overnight while the temperature of the mixture was gradually raised to room temperature. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and the aqueous layer at this time was extracted with ethyl acetate. The organic layers were combined and dried, and the residue obtained by concentrating the reaction mixture under reduced pressure was purified by silica gel column chromatography (n-hexane:ethyl acetate) to obtain 2-bromo-5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1H-imidazol-2-yl]pyridine (9.42 g).

reactant | Sodium hydride | 2.62 g | [H-].[Na+]
reactant | 2-bromo-5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridine | 13.65 g | BrC1=NC=C(C=C1)C=1NC(=CN1)C(F)(F)F | C9H5BrF3N3
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 12.4 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 2-bromo-5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1H-imidazol-2-yl]pyridine | 9.42 g | BrC1=NC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C | C15H19BrF3N3OSi
